US05705702
A Grignard reagent was conventionally prepared using 3,4-di-tert-butoxyphenyl chloride, magnesium, and THF and further reacted with thionyl chloride, obtaining bis(3,4-di-tert-butoxyphenyl) sulfoxide in a yield of 64%. Then 58.9 g (0.12 mol) of bis(3,4-di-tert-butoxyphenyl) sulfoxide was dissolved in 120 g of THF and cooled in an ice water bath. Then 12.1 g (0.12 mol) of triethylamine was added thereto and 68.3 g (0.31 mol) of trimethylsilyl triflate was added dropwise in a controlled manner at less 10° C. To this solution, a Grignard reagent which was conventionally prepared using 61.6 g (0.24 mol) of 1,2-di-tert-butoxy-4-chlorobenzene, 5.8 g (0.24 mol) of magnesium, and 100 g of THF was added dropwise in a controlled manner at less 10° C. With the reaction temperature controlled at 0° to 10° C., reaction ripening was carried out for 30 minutes. A 20% ammonium chloride aqueous solution, 700 g, was added to the reaction solution to terminate reaction, followed by separation. 300 g of chloroform was added to the organic layer. The organic layer was washed twice using 300 g of water and then evaporated, obtaining an oily residue. The oily residue was worked up by column chromatography (silica gel, eluent: chloroform/methanol), obtaining tris(3,4-di-tert-butoxyphenyl)sulfonium trifluoromethanesulfonate of 99% purity in a yield of 20%. The final percent yield of this two-steps synthesis process was 13%.

reactant | 3,4-di-tert-butoxyphenyl chloride | C(C)(C)(C)OC=1C=C(C=CC1OC(C)(C)C)Cl | C14H21ClO2
reactant | magnesium | [Mg] | Mg
reactant | thionyl chloride | S(=O)(Cl)Cl | Cl2OS
solvent | THF | C1CCOC1 | C4H8O
product | bis(3,4-di-tert-butoxyphenyl) sulfoxide | yield of 64% | C(C)(C)(C)OC=1C=C(C=CC1OC(C)(C)C)S(=O)C1=CC(=C(C=C1)OC(C)(C)C)OC(C)(C)C | C28H42O5S
